US04110337
(c) 2-Methyl-(2'-amino-4'-methoxyanilino)-propionic acid
32.6 g (mol/7.8) of 2-methyl-(2'-nitro-4'-methoxyanilino)-propionic acid, in solution in 330 ml of tetrahydrofuran, are hydrogenated in the presence of 20 g of Raney nickel in an autoclave with a capacity of 500 ml. Hydrogen pressure in the cold: 150 kg/cm2. Temperature = 70°-90° C.; Duration: 3 hours

reactant | 2-methyl-(2'-nitro-4'-methoxyanilino)-propionic acid | 32.6 g | CC(C(=O)O)(C)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C11H14N2O5
reactant | Hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 330 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | 2-Methyl-(2'-amino-4'-methoxyanilino)-propionic acid | CC(C(=O)O)(C)NC1=C(C=C(C=C1)OC)N | C11H16N2O3
